US06384220B2
A solution of 3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionic acid methyl ester (310 mg, 0.89 mmol) in tetrahydrofuran (2 mL) was treated with a 0.8M aqueous lithium hydroxide solution (1.45 mL, 1.16 mmol). The resulting reaction mixture was stirred at 25° C. for 39 h and then heated at 80° C. for 4 h. The reaction mixture was then allowed to cool to 25° C. where it was stirred for 3 d. The reaction mixture was then concentrated in vacuo to remove tetrahydrofuran. The resulting aqueous layer was extracted with methylene chloride (2×40 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionic acid (170 mg, 58%) as a pale yellow foam: mp 62-65° C.; FAB-HRMS m/e calcd for C22H23NO2 (M+H)+ 333.1729, found 333.1731.

reactant | 3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionic acid methyl ester | 0.89 mmol, 310 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C=1C=C2C=CNC2=CC1)=O | C23H25NO2
reactant | lithium hydroxide | 1.16 mmol, 0.8M, 1.45 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-[4-(1H-indol-5-yl)-phenyl]-propionic acid | 170 mg, 58% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C=1C=C2C=CNC2=CC1 | C22H23NO2
